US07220768B2
4-(4-Benzylisoxazol-3-yl)phenylamine
Trifluoroacetic acid (0.5 mL) is added to [4-(4-benzylisoxazol-3-yl)phenyl]carbamic acid tert-butyl ester (0.3 g) and stirred for 30 minutes. The reaction mixture is concentrated under reduced pressure and the concentrate is partitioned between ethyl acetate and 1N sodium hydroxide solution. The organic layer is washed with saturated sodium chloride, dried over anhydrous magnesium sulfate and chromatographed on silica gel (ethyl acetate/hexane as eluant) to give 0.15 g product as a white solid. MS: m/z 251 (M+H)+.

reactant | Trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | [4-(4-benzylisoxazol-3-yl)phenyl]carbamic acid tert-butyl ester | 0.3 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)C1=NOC=C1CC1=CC=CC=C1)=O | C21H22N2O3
product | 4-(4-Benzylisoxazol-3-yl)phenylamine | 0.15 g | C(C1=CC=CC=C1)C=1C(=NOC1)C1=CC=C(C=C1)N | C16H14N2O
